US09024027B2
To a solution of benzyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate (1.0 g, 3.22 mmol) in pyridine (8 ml) cooled to 0° C., methanesulfonyl chloride (0.377 ml, 4.83 mmol) was added drop wise, and the resulting mixture was stirred at room temperature for 3 hours. The solvent was removed under vacuum and the residue was partitioned between 2N HCl and DCM; the aqueous phase was extracted with DCM and the combined organic layers were dried over Na2SO4 and evaporated to dryness. The crude was triturated with Et2O (15 ml) to give benzyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (1.1 g, 2.83 mmol, 88% yield, MS/ESI+ 388.8 [MH]+).

reactant | benzyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate | 3.22 mmol, 1.0 g | NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C17H14N2O4
reactant | methanesulfonyl chloride | 4.83 mmol, 0.377 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | benzyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 2.83 mmol, 1.1 g, 88% yield | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C18H16N2O6S
